US08461179B1
3-Oxo-pentanedioic acid diethyl ester (101 g, 0.5 mmol), triethyl orthoformate (81.4 g, 0.55 mol) and acetic anhydride (102 g, 1 mol) were combined and heated to 120° C. for 2 h. The resulting mixture was cooled to RT and dissolved in DCM (1 L). After further cooling to 0° C., ammonia (30%, 80 mL) was added and the reaction mixture was allowed to warm to RT overnight. The product was extracted with water (2×) and the aqueous layer was acidified to pH 5 with conc. HCl. The precipitate was collected by filtration to afford ethyl 4,6-dihydroxynicotinate (60.0 g, 60% yield). 1H NMR (400 MHz, DMSO-d6): δ 7.99 (s, 1H), 5.58 (s, 1H), 4.23 (q, J=6.8, 14.0 Hz, 2H), 1.25 (t, J=7.2 Hz, 3H); MS (ESI) m/z: 184.1 [M+H]+.

reactant | 3-Oxo-pentanedioic acid diethyl ester | 0.5 mmol, 101 g | C(C)OC(CC(CC(=O)OCC)=O)=O | C9H14O5
reactant | triethyl orthoformate | 0.55 mol, 81.4 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 1 mol, 102 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonia | 80 mL | N | H3N
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
product | ethyl 4,6-dihydroxynicotinate | 60.0 g, 60% yield | OC1=CC(=NC=C1C(=O)OCC)O | C8H9NO4
